US08202511B2
2,4,6-Triiodo-5-methylamino-isophthaloyl dichloride (20 g, 32.8 mmol) was dissolved in DMA (60 ml) and acetoxyacetyl chloride (15.32 ml, 142 mmol) was added. The reaction was stirred overnight at room temperature with nitrogen bubbling through the reaction mixture. The reaction mixture was poured slowly onto ice-water (300 ml) and a white solid was isolated by filtration. The solid was dissolved in ethyl acetate and washed with water. The ethyl acetate was collected, dried over MgSO4, filtered and evaporated to give a white solid. This was purified by silica column chromatography eluting with petrol: ethyl acetate to give acetic acid [(3,5-bis-chlorocarbonyl-2,4,6-triiodo-phenyl)-methyl-carbamoyl]-methyl ester (16.25 g, 22.9 mmol).

reactant | 2,4,6-Triiodo-5-methylamino-isophthaloyl dichloride | 32.8 mmol, 20 g | IC1=C(C(=O)Cl)C(=C(C(=C1C(=O)Cl)I)NC)I | C9H4Cl2I3NO2
reactant | acetoxyacetyl chloride | 142 mmol, 15.32 ml | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | DMA | 60 ml | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | acetic acid [(3,5-bis-chlorocarbonyl-2,4,6-triiodo-phenyl)-methyl-carbamoyl]-methyl ester | 22.9 mmol, 16.25 g | ClC(=O)C=1C(=C(C(=C(C1I)C(=O)Cl)I)N(C(=O)COC(C)=O)C)I | C13H8Cl2I3NO5
